US08026081B2
A solution prepared by dissolving 5.13 g (content 96.2%, 22.6 mmol) of (S)-6,6-dimethoxy-2-methylheptanoic acid methyl ester in 10 g of THF was dropped at room temperature into a suspension prepared by adding 15 g of THF to 0.65 g (content 90%, 26.6 mmol) of lithium borohydride. Next, the reaction mixture was heated up to 55° C., and reacted at the same temperature for 9 hours, to give (S)-6,6-dimethoxy-2-methylheptanol. Next, into this reaction mixture, 7.32 g of methanol was dropped at room temperature over a period of about 1 hour, then, the mixture was stirred at the same temperature for 4 hours. Next, into this reaction mixture, 25.08 g of 5% hydrochloric acid was dropped at room temperature, and the mixture was further stirred at the same temperature for 30 minutes. This solution was extracted twice with 15 g and 12.5 g of methyl isobutyl ketone, then, the resultant organic layers were combined, and washed twice with 10 g of 15% sodium carbonate aqueous solution, to obtain 51.7 g of a MIBK solution containing 2.95 g (yield 89.5%) of (S)-7-hydroxy-6-methylheptan-2-one. The solvent was distilled off under reduced pressure to obtain 3.68 g of a coarse product of (S)-7-hydroxy-6-methylheptan-2-one as a pale yellow oil. This may be used in the subsequent reaction without purification, or if necessary, may be purified by distillation under reduced pressure. A part of the resultant coarse product of (S)-7-hydroxy-6-methylheptan-2-one was purified by distillation, to obtain (S)-7-hydroxy-6-methylheptan-2-one in the form of colorless oil. [α]D27=−13.9° (5.03% in EtOH)

reactant | (S)-6,6-dimethoxy-2-methylheptanoic acid methyl ester | 22.6 mmol, 5.13 g | COC([C@H](CCCC(C)(OC)OC)C)=O | C11H22O4
reactant | lithium borohydride | 26.6 mmol, 0.65 g | [BH4-].[Li+]
solvent | THF | 10 g | C1CCOC1 | C4H8O
solvent | THF | 15 g | C1CCOC1 | C4H8O
product | (S)-6,6-dimethoxy-2-methylheptanol | COC(CCC[C@@H](CO)C)(C)OC | C10H22O3
